US07259178B2
A solution of 1.54 g (3.42 mmol) of crude N-[2-chloro-4-(2,2,2-trifluoro-1-triethylsilanyloxy-1-trifluoromethyl-ethyl)-phenyl]-acetamide in 20 mL of THF was treated with 6.85 mL of a 1M solution of BH3THF-complex in THF. The mixture was kept at reflux for 3 hours and the solvent evaporated. The residue was distributed between a saturated aqueous solution of NH4Cl and Et2O. The combined organic phases were dried over Na2SO4 and the solvent was evaporated. Column chromatography on silica gel with n-heptane/EtOAc 95:5 yielded 0.922 g (61%) of [2-chloro-4-(2,2,2-trifluoro-1-triethylsilanyloxy-1-trifluoromethyl-ethyl)-phenyl]-N-ethyl-amine, colorless liquid, MS: 436 (MH+, 1Cl).

reactant | N-[2-chloro-4-(2,2,2-trifluoro-1-triethylsilanyloxy-1-trifluoromethyl-ethyl)-phenyl]-acetamide | 3.42 mmol, 1.54 g | ClC1=C(C=CC(=C1)C(C(F)(F)F)(C(F)(F)F)O[Si](CC)(CC)CC)NC(C)=O | C17H22ClF6NO2Si
reactant | BH3THF | B.C1CCOC1
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | [2-chloro-4-(2,2,2-trifluoro-1-triethylsilanyloxy-1-trifluoromethyl-ethyl)-phenyl]-N-ethyl-amine | 0.922 g, 61% | ClC1=C(C=CC(=C1)C(C(F)(F)F)(C(F)(F)F)O[Si](CC)(CC)CC)NCC | C17H24ClF6NOSi
